US04028344
Preparation of 1-t-Butylazo-1-(ethoxythiocarbonylamino)cyclohexane
To 50 ml of ethanol in a 125 ml erlenmeyer flask stirred with a magnetic stirrer, was slowly added 2.1 grams (0.05 moles) of 57% sodium hydride. The reaction mixture was cooled back to 25° C. and 11.2 grams (0.05 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane was added dropwise over 5 minutes. The reaction mixture was stirred for 2 hours and then allowed to stand overnight. The next morning the reaction mixture was poured into 200 ml water and the product extracted with 50 ml pentane. The pentane extract was washed twice with water, once with 10% NaHCO3, dried over anhydrous Na2SO4, filtered and the pentane evaporated under reduced pressure to leave a mushy solid. The solid was slurried in a small amount of cold pentane and filtered. The solids were air dried and weighed 7.1 grams (52% crude yield) and melted at 57°-62° C. The product had a strong broad band at 1515 cm-1 and a sharp NH band at 3300 cm-1 in its infrared spectrum.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydride | 0.05 moles, 2.1 grams | [H-].[Na+]
reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | 0.05 moles, 11.2 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | water | 200 ml | O | H2O
solvent | pentane | CCCCC | C5H12
product | 1-t-Butylazo-1-(ethoxythiocarbonylamino)cyclohexane | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)OCC | C13H25N3OS
